US05908781
Preparation of Ceftiofur-SMPB Conjugates.
Ceftiofur sodium (82 mg)(The Upjohn Co., Kalamazoo, Mich.) was dissolved in 500 μL PBS-A, and 10 mg sulfosuccinimidyl 4-(p-maleimidophenyl)-butyrate (s-SMPB)(Pierce, Rockford, Ill.) in 20 μL DMF was added. The resulting mixture was stirred for 10-15 min, added dropwise to 30 mg BSA-SH (1.5 mL of a 20 mg/mL stock solution), stirred overnight at ambient temperature, and then dialyzed exhaustively against PBS-A. Similarly, 52 mg ceftiofur sodium in PBS-A and 5 mg s-SMPB in 20 μL N,N-dimethylformamide (DMF) were added dropwise to 20 mg of OVA-SH (1 mL of a 20 mg/mL stock solution), and the mixture was stirred overnight at ambient temperature and dialyzed exhaustively against PBS-B (0.05M sodium phosphate, 0.075M sodium chloride in deionized water, pH 7.2). These conjugates were abbreviated as BSA-S-SMPB-Cef and OVA-S-SMPB-Cef, respectively.

reactant | Ceftiofur sodium | 82 mg | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)[O-].[Na+]
reactant | sulfosuccinimidyl 4-(p-maleimidophenyl)-butyrate | 10 mg | C1(C=CC(N1C1=CC=C(C=C1)CCCC(=O)ON1C(C(CC1=O)S(=O)(=O)O)=O)=O)=O | C18H16N2O9S
solvent | DMF | 20 μL | CN(C=O)C | C3H7NO
product | Ceftiofur SMPB | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O.C1CC(=O)N(C1=O)OC(=O)CCCC2=CC=C(C=C2)N3C(=O)C=CC3=O | InChI=1S/C19H17N5O7S3.C18H16N2O6/c1-30-23-11(9-7-34-19(20)21-9)14(25)22-12-15(26)24-13(17(27)28)8(5-32-16(12)24)6-33-18(29)10-3-2-4-31-10;21-14-8-9-15(22)19(14)13-6-4-12(5-7-13)2-1-3-18(25)26-20-16(23)10-11-17(20)24/h2-4,7,12,16H,5-6H2,1H3,(H2,20,21)(H,22,25)(H,27,28);4-9H,1-3,10-11H2/b23-11-;/t12-,16-;/m1./s1
